US09167821B2
tert-Butyl 4-{4-[5-(2-chloro-6-hydroxyphenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidine-1-carboxylate (X-a-12)
To a solution of tert-butyl 4-{4-[(hydroxyimino)methyl]-1,3-thiazol-2-yl}piperidine-1-carboxylate (400 mg) in ethyl acetate (10 ml) was added N-chlorosuccinimide (206 mg). The reaction mixture is stirred at reflux for 30 min. To the reaction mixture were added 3-chloro-2-vinylphenol (397 mg) and potassium hydrogencarbonate (257 mg) at room temperature, and then one drop of water. After stirring at room temperature overnight, the reaction mixture was admixed with ethyl acetate and water and extracted with ethyl acetate. The organic extracts were dried over sodium sulphate and concentrated under reduced pressure. The residue was purified by chromatography. This gave tert-butyl 4-{4-[5-(2-chloro-6-hydroxyphenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidine-1-carboxylate (345 mg).

reactant | tert-butyl 4-{4-[(hydroxyimino)methyl]-1,3-thiazol-2-yl}piperidine-1-carboxylate | 400 mg | ON=CC=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C14H21N3O3S
reactant | N-chlorosuccinimide | 206 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 3-chloro-2-vinylphenol | 397 mg | ClC=1C(=C(C=CC1)O)C=C | C8H7ClO
reactant | potassium hydrogencarbonate | 257 mg | C(O)([O-])=O.[K+]
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | water | one drop | O | H2O
solvent | water | O | H2O
product | tert-Butyl 4-{4-[5-(2-chloro-6-hydroxyphenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidine-1-carboxylate | ClC1=C(C(=CC=C1)O)C1CC(=NO1)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C22H26ClN3O4S
